US06756378B2
The mixture of the above methyl 4-(2-pyrrolidinylmethylamino)benzoate (397.8 mg, 1.69 mmol), 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetic acid (587.1 mg, 1.87 mmol), EDC (HCl) (486 mg, 2.54 mmol), HOBt (23 mg, 0.17 mmol), and DMAP (21 mg, 0.17 mmol) in DMF (4 mL) was stirred overnight at room temp. The mixture was diluted with EtOAc, washed with brine, and dried over Na2SO4. The solvent was removed under a reduced pressure. The residue was chromatographed on silica-gel with CHCl3—MeOH (50:1, v/v) as eluent to afford 882 mg (98%) methyl 4-[1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinylmethylamino]benzoate as a brown amorphous solid, which is used to the subsequent reaction without further purification.

reactant | methyl 4-(2-pyrrolidinylmethylamino)benzoate | 1.69 mmol, 397.8 mg | N1C(CCC1)CNC1=CC=C(C(=O)OC)C=C1 | C13H18N2O2
reactant | 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetic acid | 1.87 mmol, 587.1 mg | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)O | C17H18N2O4
reactant | EDC | 2.54 mmol, 486 mg
reactant | HOBt | 0.17 mmol, 23 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
catalyst | DMAP | 0.17 mmol, 21 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 4-[1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinylmethylamino]benzoate | 882 mg, 98% | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)N1C(CCC1)CNC1=CC=C(C(=O)OC)C=C1 | C30H34N4O5
